US06521643B1
A suspension of N-cyano-4-(4-methoxypyridin-2-yl)-2-nitroaniline (200 mg) in ethanol (10 ml) was hydrogenated over Raney-nickel (500 mg) under a hydrogen atmosphere for 12 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 20 g, dichloromethane:methanol:aqueous ammonia=100:10:1). The compound obtained was dissolved in ethyl acetate, and a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) was added. The precipitate was collected by filtration and dried to give 2-amino-5-(4-methoxypyridin-2-yl)benzimidazole dihydrochloride (142 mg).

reactant | N-cyano-4-(4-methoxypyridin-2-yl)-2-nitroaniline | 200 mg | C(#N)NC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C13H10N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
catalyst | Raney-nickel | 500 mg | [Ni] | Ni
product | 2-amino-5-(4-methoxypyridin-2-yl)benzimidazole dihydrochloride | 142 mg | Cl.Cl.NC=1NC2=C(N1)C=CC(=C2)C2=NC=CC(=C2)OC | InChI=1S/C13H12N4O.2ClH/c1-18-9-4-5-15-11(7-9)8-2-3-10-12(6-8)17-13(14)16-10;;/h2-7H,1H3,(H3,14,16,17);2*1H
